US07700607B2
To a mixture of potassium phosphate (2.07 g, 9.73 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (1.06 g, 3.89 mmol), 2-(4-methoxybenzyloxy)-3-bromo-4-methylpyridine (1.000 g, 3.24 mmol), and S-PHOS (0.162 mmol) in isopropyl alcohol (21 mL) and water (7 mL) was added palladium acetate (0.0364 g, 0.162 mmol). The mixture was stirred at 75° C. After 4 hrs, the reaction mixture was diluted with EtOAc (ca. 100 mL) and washed with water and brine. After drying with sodium sulfate, the organic fraction was stripped onto silica and purified by silica gel chromatography using 1-8% MeOH in CH2Cl2 w/NH4OH to provide 6-(2-(4-methoxybenzyloxy)-4-methylpyridin-3-yl)quinazolin-2-amine as a tan solid. M+H+=373.1.

reactant | potassium phosphate | 9.73 mmol, 2.07 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 3.89 mmol, 1.06 g | CC1(OB(OC1(C)C)C=1C=C2C=NC(=NC2=CC1)N)C | C14H18BN3O2
reactant | 2-(4-methoxybenzyloxy)-3-bromo-4-methylpyridine | 3.24 mmol, 1.000 g | COC1=CC=C(COC2=NC=CC(=C2Br)C)C=C1 | C14H14BrNO2
reactant | S-PHOS | 0.162 mmol | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | isopropyl alcohol | 21 mL | C(C)(C)O | C3H8O
solvent | water | 7 mL | O | H2O
solvent | EtOAc | ca. 100 mL | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.162 mmol, 0.0364 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(2-(4-methoxybenzyloxy)-4-methylpyridin-3-yl)quinazolin-2-amine | COC1=CC=C(COC2=NC=CC(=C2C=2C=C3C=NC(=NC3=CC2)N)C)C=C1 | C22H20N4O2
